US09428499B2
Step c: Synthesis of (3-aminophenyl)(1,1-dioxidothiazolidin-3-yl)methanone
A solution of (1,1-dioxidothiazolidin-3-yl)(3-nitrophenyl)methanone (3 g, 11.10 mmol) in MeOH (30 ml) and 10% Pd—C (300 mg) was stirred under H2 (1 atm) for overnight. Reaction mixture was filtered through celite pad and the filtrate was evaporated under vacuum to afford the titled compound (2.3 gm).

reactant | (1,1-dioxidothiazolidin-3-yl)(3-nitrophenyl)methanone | 11.10 mmol, 3 g | O=S1(CN(CC1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-])=O | C10H10N2O5S
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd—C | 300 mg | [Pd] | Pd
product | (3-aminophenyl)(1,1-dioxidothiazolidin-3-yl)methanone | 2.3 gm | NC=1C=C(C=CC1)C(=O)N1CS(CC1)(=O)=O | C10H12N2O3S
